US07141559B2
Methyl(3α,5β,7α,12α)-7,12-dihydroxy-3-(p-toluenesulfonyloxy)cholan-24-oate
To a solution of cholic acid methyl ester (1000.0 g, 2.366 mol) in pyridine (2250 mL) at −10° C. was added a solution of p-toluenesulfonyl chloride (654.2 g, 2.431 mol) in pyridine (650 mL) dropwise over 2.5 hours while maintaining the reaction temperature at −10 to −6° C. The solution was mixed at −10° C. for an additional 12.5 hours, diluted with water (61.8 g) with continued cooling. The mixture at −7.5° C. was added over a period of 43 minutes to a mixture of MTBE (5 L) and 6N HCl (6.2 L). The layers were separated and the organic phase was washed with 7% NaHCO3 (2 L), followed by 2% NaCl (2 L), and finally with pH 7 phosphate buffer (2 L). The organic phase was filtered, concentrated under reduced pressure with MTBE (3×200 mL) to give 1608.93 g of a very viscous pale-straw colored oil (95.3% potency adjusted yield) that was used directly in the next step. 1H NMR (CDCl3, 400 MHz) δ 7.79 (d, J=8.5 Hz, 2 H), 7.32 (d, J=8.6 Hz, 2 H), 4.40–4.31 (m, 1 H), 3.97 (br s, 1 H), 3.83 (br s, 1 H), 3.68 (s, 3 H), 2.60–2.50 (m, 1 H), 2.45 (s, 3 H), 2.43–1.34 (m, 25 H), 0.99 (d, J=6.3 Hz, 3 H), 0.88 (s, 3 H), 0.69 (s, 3 H). MS (ESI) Expected=576; base=594.2 (576+NH4+).

reactant | cholic acid methyl ester | 2.366 mol, 1000.0 g | CC(CCC(=O)OC)C1CCC2C1(C(CC3C2C(CC4C3(CCC(C4)O)C)O)O)C | C25H42O5
reactant | p-toluenesulfonyl chloride | 2.431 mol, 654.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | MTBE | 5 L | CC(C)(C)OC | C5H12O
reactant | HCl | 6N, 6.2 L | Cl | ClH
solvent | pyridine | 2250 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 650 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 61.8 g | O | H2O
product | Methyl(3α,5β,7α,12α)-7,12-dihydroxy-3-(p-toluenesulfonyloxy)cholan-24-oate | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C[C@@H]4C[C@@H](CC[C@]4(C)[C@H]3C[C@@H]([C@]12C)O)OS(=O)(=O)C1=CC=C(C=C1)C)O)=O | C32H48O7S
